US08314088B2
2-[benzyl({3-chloro-5-[methyl(1-methylpropyl)amino]pyrazin-2-yl}methyl)amino]ethanol
Sodium triacetoxyborohydride (2.0 g) was added to a solution of 3-chloro-5-[methyl(1-methylpropyl)amino]pyrazine-2-carbaldehyde (1.43 g), N-benzylethanolamine (1.14 g) and acetic acid (1.08 mL) in acetonitrile (10 mL), and the mixture was stirred at room temperature for 5 hr. The reaction mixture was basified with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 20→80% ethyl acetate/hexane) to give the title compound (2.07 g, 91%) as a pale-yellow oil.

reactant | Sodium triacetoxyborohydride | 2.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-chloro-5-[methyl(1-methylpropyl)amino]pyrazine-2-carbaldehyde | 1.43 g | ClC=1C(=NC=C(N1)N(C(CC)C)C)C=O | C10H14ClN3O
reactant | N-benzylethanolamine | 1.14 g | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetic acid | 1.08 mL | C(C)(=O)O | C2H4O2
product | 2-[benzyl({3-chloro-5-[methyl(1-methylpropyl)amino]pyrazin-2-yl}methyl)amino]ethanol | 2.07 g, 91% | C(C1=CC=CC=C1)N(CCO)CC1=NC=C(N=C1Cl)N(C(CC)C)C | C19H27ClN4O
